US07592353B2
A solution of 4-hydroxy-4-methyl-pent-2-ynoic acid ethyl ester (4.9 g, 155 mmol) in dichloromethane (30 mL) was cooled to −78° C. and treated with DAST (5.3 g, 161.2 mmol) the reaction mixture was stirred for 2 h at −78° C. then warmed to room temperature and poured over ice. After the ice had melted, the phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried (sodium sulfate) and concentrated on a rotary evaporator to provide 5.0 g (100%) of 4-fluoro-4-methyl-pent-2-ynoic acid ethyl ester as a brown oil.

reactant | 4-hydroxy-4-methyl-pent-2-ynoic acid ethyl ester | 155 mmol, 4.9 g | C(C)OC(C#CC(C)(C)O)=O | C8H12O3
reactant | DAST | 161.2 mmol, 5.3 g | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-fluoro-4-methyl-pent-2-ynoic acid ethyl ester | 5.0 g, 100% | C(C)OC(C#CC(C)(C)F)=O | C8H11FO2
